US04582837
2-(2'-Methoxy-4'-methanesulfonylamino-phenyl)-imidazo[4,5-c]pyridine
Quantities of 5.45 gm (50 mmol) of 3,4-diaminopyridine and 12.25 gm (50 mmol) of 2-methoxy-4-methanesulfonylaminobenzoic acid were triturated together and refluxed for four hours in 300 ml of phosphorus oxychloride. Excess phosphorus oxychloride was then distilled off, and the residue was mixed with 500 ml of water and adjusted to a pH of 8 with concentrated ammonia. The insoluble components were filtered off, the filtrate was saturated with sodium chloride, and the crude product precipitated. After purification by chromatography (800 gm of aluminum oxide; eluant: dichloromethane with 5 to 10% of ethanol), 4.8 gm (25.2% of theory) were obtained.

reactant | 3,4-diaminopyridine | 50 mmol, 5.45 gm | NC=1C=NC=CC1N | C5H7N3
reactant | 2-methoxy-4-methanesulfonylaminobenzoic acid | 50 mmol, 12.25 gm | COC1=C(C(=O)O)C=CC(=C1)NS(=O)(=O)C | C9H11NO5S
solvent | phosphorus oxychloride | 300 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-(2'-Methoxy-4'-methanesulfonylamino-phenyl)-imidazo[4,5-c]pyridine | COC1=C(C=CC(=C1)NS(=O)(=O)C)C=1NC2=C(C=NC=C2)N1 | C14H14N4O3S
